US04845118
1-Vinyloxycarbonyl-2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole
In analogy to Example 15 1.5 g of crude product were obtained from 2.1 g (8 mmol) of 2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole and 0.85 g (0.72 ml, 8 mmol) of vinyl chloroformate and were chromatographed on SiO2 (CH2Cl2 /MeOH 50:1). 1.1 g of title compound were obtained by crystallization from diisopropyl ether. Melting point 78°-80° C.

reactant | 2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | 8 mmol, 2.1 g | CC=1C=CC(=NC1)CSC1=NC=2C(N1)=CSC2 | C12H11N3S2
reactant | vinyl chloroformate | 8 mmol, 0.72 ml, 0.85 g | ClC(=O)OC=C | C3H3ClO2
product | 1-Vinyloxycarbonyl-2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | 1.1 g | C(=C)OC(=O)N1C(=NC=2C1=CSC2)SCC2=NC=C(C=C2)C | C15H13N3O2S2
